US09278968B2
To a mixture of 167 mg of 8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid and 1.5 ml of dichloromethane was added 90 μl of 1-chloro-N,N,2-trimethylprop-1-en-1-amine under ice-cooling, followed by stirring at room temperature for 30 minutes. A solution of 93 mg of ethyl 2-amino-2-(pyrimidin-5-yl)propanoate in 1.5 ml of dichloromethane and 0.15 ml of triethylamine were added thereto under ice-cooling, followed by stirring at room temperature for 2 hours. To the reaction mixture was added water, followed by extraction with chloroform. The organic layer was washed with water and a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate, and the solvent was then evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 56 mg of ethyl 2-[({8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridin-3-yl}carbonyl)amino]-2-(pyrimidin-5-yl)propanoate.

reactant | 8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid | 167 mg | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)O)C(=CC=C1)F | C16H12F2N2O3
reactant | 1-chloro-N,N,2-trimethylprop-1-en-1-amine | 90 μl | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | ethyl 2-amino-2-(pyrimidin-5-yl)propanoate | 93 mg | NC(C(=O)OCC)(C)C=1C=NC=NC1 | C9H13N3O2
reactant | water | O | H2O
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
solvent | triethylamine | 0.15 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
product | ethyl 2-[({8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridin-3-yl}carbonyl)amino]-2-(pyrimidin-5-yl)propanoate | 56 mg | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)NC(C(=O)OCC)(C)C=3C=NC=NC3)C(=CC=C1)F | C25H23F2N5O4
